US06187774B1
Hydrazine hydrate (1.1 g) was added to a solution (40 ml) of 4-oxo-4-(2-oxocyclohexyl)-n-butyric acid (4.1 g) in ethanol and the mixture was refluxed for 1 hour. After the completion of the reaction, the reaction mixture was cooled and the precitated crystals were collected by filtration to give 3.9 g of 3-(4,5,6,7-tetrahydro-2H-indazol-3-yl)propionic acid, m.p. 135-136° C.

reactant | Hydrazine hydrate | 1.1 g | O.NN
reactant | 4-oxo-4-(2-oxocyclohexyl)-n-butyric acid | 40 ml, 4.1 g | O=C(CCC(=O)O)C1C(CCCC1)=O | C10H14O4
solvent | ethanol | C(C)O | C2H6O
product | 3-(4,5,6,7-tetrahydro-2H-indazol-3-yl)propionic acid | 3.9 g | N=1NC(=C2CCCCC12)CCC(=O)O | C10H14N2O2
